US07291744B2
Step c: Preparation of (1R,2S)-2-({[3-(4-fluorophenyl)-propyl]-methyl-amino}-methyl)-cyclohexylamine
A mixture of (1R,2S)-[2-({[3-(4-fluoro-phenyl)-propyl]-methyl-amino}-methyl)-cyclohexyl]-carbamic acid benzyl ester (400 mg, 970 μM) and 20% palladium hydroxide on charcoal (Pearlman's catalyst, 200 mg) in methanol (25 mL) was shaken in a pressure bottle under a hydrogen atmosphere (55 psig) for 16.5 hours. The mixture was filtered and the solid was washed with methanol. The combined filtrates were concentrated under vacuum to provide a tan viscous oil (268 mg, quantitative), used without further purification.

reactant | (1R,2S)-[2-({[3-(4-fluoro-phenyl)-propyl]-methyl-amino}-methyl)-cyclohexyl]-carbamic acid benzyl ester | 970 μM, 400 mg | C(C1=CC=CC=C1)OC(N[C@H]1[C@@H](CCCC1)CN(C)CCCC1=CC=C(C=C1)F)=O | C25H33FN2O2
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium hydroxide on charcoal | 200 mg | [OH-].[OH-].[Pd+2]
product | (1R,2S)-2-({[3-(4-fluorophenyl)-propyl]-methyl-amino}-methyl)-cyclohexylamine | FC1=CC=C(C=C1)CCCN(C)C[C@H]1[C@@H](CCCC1)N | C17H27FN2
